US07417047B2
A solution of 1-(difluoromethoxy)-4-iodobenzene (12.7 g, 50 mmol) in triethylamine (175 mL) was treated with tetrakis(triphenylphosphine)palladium (4.0 g, 3.5 mmol), copper iodide (925 mg, 4.85 mmol), and a solution of ethynyl(trimethyl)silane (6.9 mL, 50 mmol) in acetonitrile at room temperature, stirred for 1 h at 60° C. and concentrated in vacuo. The resultant residue was dissolved in Et2O, filtered and the filtrated was concentrated in vacuo. This residue was purified by chromatography (silica gel, EtOAc/hexane: 5/95) to give {[4-(difluoromethoxy)-phenyl]ethynyl}(trimethyl)silane (11.5 g, 96%) as an oil.

reactant | 1-(difluoromethoxy)-4-iodobenzene | 50 mmol, 12.7 g | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
reactant | ethynyl(trimethyl)silane | 50 mmol, 6.9 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | triethylamine | 175 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium | 3.5 mmol, 4.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 4.85 mmol, 925 mg | [Cu](I)I
product | {[4-(difluoromethoxy)-phenyl]ethynyl}(trimethyl)silane | 11.5 g, 96% | FC(OC1=CC=C(C=C1)C#C[Si](C)(C)C)F | C12H14F2OSi
